reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]#[N:6])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C@@:4]([C:3]([C:2][H:10])([H:11])[H:12])([C:5]#[N:6])[H:13])([H:7])([H:8])[H:9],109.196703918529
[C:1]([C:2]#[C:3][C:4](=[O:5])[H:9])([H:6])([H:7])[H:8]>>[C:1](=[C:2]=[C:3]=[C:4]([O:5][H:7])[H:9])([H:6])[H:8],60.88708140437
[O:1]=[C:2]([C:3]([C:5](=[C:4])[H:10])([H:8])[H:9])[C:6]#[N:7]>>[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7],18.441821088076004
[O:1]=[C:2]([C:3](=[C:4])[C:5](=[O:6])[H:8])[H:7]>>[O:1]=[C:2]([C:3]#[C:4][C:5](=[O:6])[H:8])[H:7],4.406337236510694
[C:1]([O:2][C:3]([C:4]#[N:5])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([O:2][C:3]([N+:5]#[C-:4])([H:9])[H:10])([H:6])([H:7])[H:8],52.1495261072597
[C:1]([C:2](=[O:3])[C:4]([H:9])([H:11])[H:12])([H:6])([H:7])[H:8].[O:5]([H:10])[H:13]>>[C:1]([C@@:2]([O:3][H:10])([C:4]([O:5][H:13])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8],93.3654462820985
[O:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]#[C:4][N+:6]#[C-:5])([H:8])[H:9])[H:7],62.405695021096705
[C:1]([C-:2]=[O+:3][C@:5]1([H:12])[C:4]([H:10])([H:11])[O:6]1)([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],30.964953828141418
[C:1]([O:2][H:8])([N:5]([C:4](=[C:3]([H:11])[H:12])[C:7]([H:14])([H:15])[H:16])[O:6][H:13])([H:9])[H:10]>>[C:1]([O:2][C:3](/[C:4](=[N:5]\[O:6][H:13])[C:7]([H:14])([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10],99.73324227075037
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[N:6])[H:11])[H:7]>>[O:1]([C@@:2]([C:4](=[C:3]([H:9])[H:10])[H:11])([C:5]#[N:6])[H:8])[H:7],89.5660412917794
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([H:13])([H:14])[H:15])[O:6][H:16])([H:7])([H:8])[H:9]>>[C:1]([C:4]([C:3]([C:2][H:10])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[O:6][H:16])([H:7])([H:8])[H:9],100.688866878787
[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[O:4]1)([H:8])([H:9])[H:10].[N:5](=[C:6](/[O:7][H:14])[H:16])\[H:15],78.3736067043633
[N:1](=[C:2](/[O:3][C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])[H:8])\[H:7]>>[N:1]1([H:7])[C@@:2]2([H:8])[O:3][C:4]([H:9])([H:10])[C@:5]1([H:11])[O:6]2,67.8961884117189
[C:3](=[C:4]([C:5]([H:9])([H:11])[H:12])[H:10])([H:7])[H:8].[O:1]=[C:2]=[C:6]([H:13])[H:14]>>[O:1]=[C:2]1[C:3]([H:7])([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[C:6]1([H:13])[H:14],76.11414291719021
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4](=[O:5])[C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C@@:4]12[O:5][C@:7]1([H:15])[C:6]2)[H:11])([H:8])([H:9])[H:10],70.8583283858185
[C:4](#[C:5][H:11])[H:6].[O:1]=[C:2]([C:3]([H:8])([H:9])[H:10])[H:7]>>[O:1]([C:2]([C:3]([C:4]#[C:5][H:11])([H:9])[H:10])([H:7])[H:8])[H:6],80.85509202895447
[C:1]([C:2]([C:3](=[C-:4][H:12])[C:5]#[O+:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]#[C:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],25.37972223313391
[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10]>>[C:1](=[C:2]=[O:3])([H:8])[H:9].[C:4](=[O:5])=[C:6]([O:7][H:10])[H:11],58.6526136315151
[O:1]([c:2]1[c:3]([H:8])[n:4]([H:9])[n:5][c:6]1[H:10])[H:7]>>[O:1]([C:2][C@@:6]1([H:10])[C+:3]([H:8])[N:4]([H:9])[N-:5]1)[H:7],128.682740067067
[C:1](=[O+:2][C:3]([C:5]([H:14])([H:15])[H:16])=[C:6]=[N-:7])([H:8])[H:10].[C:4]([H:9])([H:11])([H:12])[H:13]>>[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[N:7])([H:8])([H:9])[H:10],31.29218241554186
[N:1](=[C:2]1/[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])([H:11])[O:6]1)\[H:7]>>[N:1](=[C:2]=[C:3]([C:4]([C:5](=[O:6])[H:10])([H:9])[H:11])[H:8])[H:7],58.8750460951511
[C:2]1[C:3]([H:9])([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13].[O:1]([H:7])[H:8]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13])[H:7],22.605759940728703
[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:4]([C:2](=[O:3])[H:11])([O:5][H:12])[C:6]#[C:7][H:13])([H:8])([H:9])[H:10],49.1749336205651
[C:1]1([H:6])([H:7])[C:2]([H:9])([H:10])[N:3]([H:11])[C@@:4]1([O:5][H:8])[H:12]>>[C:1]([C:2]([N:3]([C:4](=[O:5])[H:12])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8],67.19943634967021
[C:1](=[C:2](/[C:3](=[C:4]([C:6](=[N:5]/[H:12])\[H:13])/[H:11])[H:10])[H:9])([H:7])[H:8]>>[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13],55.4906392992513
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C+:3]=[C:5]=[N-:6])([H:10])[H:11])([H:7])([H:8])[H:9].[C:4]([H:12])([H:13])([H:14])[H:15],91.0119326219277
[N:1]([c:2]1[n:3][n:4]([H:9])[c:5]([H:10])[n:6]1)([H:7])[H:8]>>[N+:1]1([H:7])([H:8])[C:2](=[N:6][C:5](=[N:4][H:9])[H:10])[N-:3]1,81.6103439967082
